US07491714B2
A mixture of methanesulfonic acid 2-(3,5-difluoro-phenoxy)-ethyl ester (1.2 g, 4.76 mmol), THF (30 ml) and 40% aqueous monomethylamine (30 ml) was heated under reflux for 8 hours. The reaction mixture was poured on water and extracted 3 times with diethyl ether (3×20 ml). The orghanic phase was washed with water, dried over magnesium sulfate and concentrated to dryness. The residue was chromatographed on silicagel eluting with methylene chloride-methanol (9-1) to give [2-(3,5-difluoro-phenoxy)-ethyl]-methyl-amine (0.63 g, 71%).

reactant | methanesulfonic acid 2-(3,5-difluoro-phenoxy)-ethyl ester | 4.76 mmol, 1.2 g | FC=1C=C(OCCOS(=O)(=O)C)C=C(C1)F | C9H10F2O4S
reactant | monomethylamine | 30 ml | CN | CH5N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | [2-(3,5-difluoro-phenoxy)-ethyl]-methyl-amine | 0.63 g, 71% | FC=1C=C(OCCNC)C=C(C1)F | C9H11F2NO
